2207-03-09 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Hct 17 --> 21 after 4 units, scoped, then 3 more units, hct 25, scoped
   again with intubation, intra-scope hct 25, receiving 2 more units
   --> 21, then scoped, scope showed large clot in stomach but unable to
   intervene, planned for repeat scope tomorrow, f/u hct 21, rec'd another
   unit, became HTN to 190s around 7pm, hands puffy and SBP 190/100, gave
   20 IV lasix, receiving 2 more units
   -10pm, husband came in, agreed to intubate and scope
   -11pm, attempted intubation, desats to 50s, code blue
   -MN, to OR for fiber optic intubation followed by EGD, able to
   cauterize lesion
   -250mg erythromycin
   -propafol gtt
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Congestive Hear
   Last dose of Antibiotics:
   Nafcillin - [**2207-3-9**] 02:30 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2207-3-8**] 08:11 AM
   Midazolam (Versed) - [**2207-3-8**] 01:31 PM
   Fentanyl - [**2207-3-8**] 01:31 PM
   Furosemide (Lasix) - [**2207-3-8**] 07:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2207-3-9**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.5
C (99.5
   HR: 85 (79 - 106) bpm
   BP: 126/58(73) {94/34(49) - 190/93(102)} mmHg
   RR: 12 (9 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  4,091 mL
                                                                  2,528 mL
   PO:
           TF:
   IVF:
                                                                    440 mL
                                                                  1,408 mL
   Blood products:
                                                                  3,276 mL
                                                                  1,120 mL
   Total out:
                                                                  1,530 mL
                                                                    438 mL
   Urine:
                                                                  1,530 mL
                                                                    438 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,561 mL
                                                                  2,090 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 680 (680 - 712) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 20
   SpO2: 100%
   ABG: ///19/
   Ve: 7.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   442 K/uL
   7.1 g/dL
   168 mg/dL
   3.3 mg/dL
   19 mEq/L
   3.6 mEq/L
   84 mg/dL
   104 mEq/L
   133 mEq/L
   20.1 %
   16.3 K/uL
        [image002.jpg]
                             [**2207-3-8**]  10:38 AM
                             [**2207-3-8**]  02:50 PM
                             [**2207-3-8**]  07:01 PM
                             [**2207-3-8**]  09:24 PM
                             [**2207-3-9**]  01:25 AM
                             [**2207-3-9**]  01:35 AM
                             [**2207-3-9**]  04:25 AM
   WBC
   21.9
   20.7
   19.8
   24.9
   16.3
   Hct
   22.9
   23.1
   21.6
   25.5
   24.6
   34
   20.1
   Plt
   [**Telephone/Fax (3) 11866**]20
   442
   Cr
   3.7
   3.6
   3.3
   TropT
   <0.01
   Glucose
   181
   158
   154
   168
   Other labs: PT / PTT / INR:13.3/24.8/1.1, CK / CKMB /
   Troponin-T:25//<0.01, ALT / AST:[**8-14**], Alk Phos / T Bili:134/0.8,
   Differential-Neuts:89.0 %, Band:1.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:1862 ng/mL, Fibrinogen:621 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:1.8 g/dL, LDH:227 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:6.4
   mg/dL
   [1][**2207-3-9**] 04:25AM
                                    16.3*
                                    2.42*
                                    7.1*
                                    20.1*
                                     83
                                    29.5
                                    35.6*
                                    15.6*
                                    442*
   [2][**2207-3-9**] 01:25AM
                                    24.9*
                                    3.00*
                                    8.7*
                                    24.6*
                                     82
                                    29.0
                                    35.4*
                                    15.5
                                    520*
   [3][**2207-3-8**] 09:24PM
   25.5*
   [4][**2207-3-8**] 07:01PM
                                    19.8*
                                    2.66*
                                    7.5*
                                    21.6*
                                     81*
                                    28.2
                                    34.7
                                    15.5
                                     425
   [5][**2207-3-8**] 02:50PM
                                    20.7*
                                   2.75*#
                                    7.9*#
                                    23.1*
                                     84
                                    28.6
                                    34.1
                                    15.6*
                                    504*
   [6][**2207-3-8**] 10:38AM
                                    21.9*
   22.9*#
   562*
   [7][**2207-3-8**] 04:30AM
                                    18.9*
                                   2.02*#
                                    5.5*#
                                  17.4*#[1]
                                     86
                                    27.4
                                    31.8
                                    15.2
                                    544*
   [8][**2207-3-7**] 05:26AM
                                    20.6*
                                    2.72*
                                    7.6*
                                    23.5*
                                     87
                                    27.9
                                    32.3
                                    15.1
                                    588*
   [9][**2207-3-6**] 05:10AM
                                    20.9*
                                    3.20*
                                    8.8*
                                    27.5*
                                     86
                                    27.4
                                    31.9
                                    15.3
                                    580*
                                                                [**2207-3-9**]
                                                                    04:25a
   _______________________________________________________________________
   Source: Line-tlc
                                     133
                               [image004.gif]
                                     104
                               [image004.gif]
                                     84
   [image006.gif]
   168
                                                                   AGap=14
   [image007.gif]
   3.6
                               [image004.gif]
                                     19
                               [image004.gif]
                                     3.3
   [image009.gif]
   Comments:
   Glucose: If Fasting, 70-100 Normal, >125 Provisional Diabetes
   Ca: 7.7 Mg: 2.0 P: 6.4
   ALT: 8
   AP: 134
   Tbili: 0.8
   Alb: 1.8
   AST: 20
   LDH: 227
   Dbili:
   TProt:
   [**Doctor First Name 429**]:
   Lip:
   Source: Line-tlc
   83
                                                                      16.3
                                                            [image009.gif]
                                     7.1
   [image006.gif]
   442
                 [image010.gif]
   [image006.gif]
                                    20.1
   [image009.gif]
   ADD ON
   PT: 13.3
   PTT: 24.8
   INR: 1.1
   Fibrinogen: Pnd
                                                                [**2207-3-9**]
                                                                    01:35a
   _______________________________________________________________________
                                     pH
                                    7.31
                                    pCO2
                                     40
                                     pO2
                                     52
                                    HCO3
                                     21
                                   BaseXS
                                     -5
   Comments:
   pO2: No Calls Made - Not Arterial Blood
   Type:[**Last Name (un) **]
   Na:131
   K:3.4
   Cl:103
   Glu:154
   freeCa:1.05
   Lactate:0.9
   Hgb:11.4
   CalcHCT:34
   Dark as well as some bright blood were seen in the stomach. A large
   clot that was found adhereing to the fundus during earlier
   endoscopy was now seen to extend from the fundus upto beyond the
   pylorus. After extensive flushing, the clot was dislodged and passed
   below into the antrum and pylorus. Subsequently a subcutaneous
   appearing blood vessel with mild oozing was noted in the fundus, likely
   a Dieulafuoy lesion.[10][1] The vessel was injected with a total of 8ml
   of 1:10,000 epinephrine. Attempts to clip the vessel failed three times
   due to mucosal sloughing. Subsequently the vessel was cauterized with a
   gold probe and hemostasis was achieved.
   Assessment and Plan
   49 y/o F with DM2, HTN,  CAD s/p CABG, admitted/in hospital for MSSA
   bacteremia, charcot foot infected with MSSA, hypotension from sepsis
   with [**Hospital **] transferred from medical [**Hospital1 **] with upper GI bleed likely from
   ASA/Plavix in setting of critical illness and prior hx of ulcers.
   Upper GI Bleed: active bleeding that did not clear with NG lavage.
   Scope x2 yesterday showing clot in stomach the first endoscopy and then
   were able to intervene on second endoscopy with cautery (see GI note).
   Was intubated for second endoscopy and remains intubated.  Not
   adequately responding to a total of 9 PRBCs, 3 plts, and 2 FFP.
   Continues to have melena output.
   -          Maintain [**Location (un) **] and power-PICC (both equivalent to > 18G)
   -          NPO
   -          Maintain active T&S
   -          IV protonix gtt
   -          Transfuse to HCT > 25 given coronary history and baseline
   HCT of 30
   -          Give DDAVP for uremic platelets in the setting of renal
   failure
   -          Q4H HCT
   -          Appreciate GI, surgery and IR recommendation
   Leukocytosis: no clear source other than foot,  known bacteremia which
   has cleared per blood cultures or diarrhea that is c. diff neg. Could
   be stress response to GI bleed
   -          Trend, add on diff
   -          Repeat blood cultures
   -          Follow-up CXR
   -          Follow-up repeat C. diff pending
   -          Repeat Ucx, given foley catheter in place
   -          Monitor clinical exam
   MSSA Bacteremia: repeat blood cultures negative. Temp [**3-7**] to 99.5 on
   standing tylenol.
   -          Continue nafcillin (does not need renal dosing)
   -          Repeat blood cultures
   -          Appreciate ID recommendations
   Left Charcot Foot and Cellulitis:
   -          Continue nafcillin
   -          Follow-up on final tissue cultures
   -          Monitor for improvement
   -          Appreciate podiatric surgery recommendations
   [**Last Name (un) **] d/t ATN: patient without known CKD at baseline. ATN attributed to
   hypotension in setting of MSSA bacteremia. Peak Cr 4.3.
   -          Renally dose all meds
   -          Hold sevelamer while NPO
   -          Monitor UOP, trend Cr
   -          Keep MAPs > 60 to maintain renal perfusion
   -          Appreciate renal consult recommendations
   Hyponatremia: 130,  in setting volume depletion. Has been an issue
   throughout hospitalization and improves with volume and hydration
   -          Hydrate as above
   -          Trend Na with [**Hospital1 **] lytes
   Diarrhea: currently in setting of melena, but prior likely antibiotic
   associated with multiple negative c. diff
   -          When able to tolerate PO initiate yogurt in diet /
   probiotics
   -          Consider loperamide once GI bleed resolves and if there is
   no evidence for infection
   Cervical Disc Disease: C6-C7 disc herniation
   -          Appreciate spine consultation recommendations
   -          Will hold on CT C spine w/o contrast until patient stable
   from a Upper GI bleed perspective
   DM c/b retinopathy, neuropathy:
   -          Lantus to 20 units (half dose) QHS given NPO status
   -          Got 40 units of glargine last night, q2H fingersticks and
   may need D5 drip given NPO
   -          Continue HISS but only treat BG > 200 given currently NPO
   -          Renally dose gabapentin and hold until while patient NPO
   Pain: concern that tylenol could be masking fevers
   -          Stop tylenol for 48 hours to trend temperature curve
   -          Continue dilaudid IV for pain
   HTN:
   -          Continue to hold norvasc, lasix, lopressor, valsartan
   -          Monitor BPs
   CAD s/p CABG [**2197**]:  last intervention > 1 year ago, given acute upper
   GI bleed need to stop ASA and Plavix.
   -          Restart imdur when able
   -          Check EKG
   Diastolic CHF:
   -          Consider using lasix with blood transfusions to prevent
   fluid overload.
   HL: hold atorvastatin and fish oil while NPO
   Anemia, baseline 31: hold iron, MVI
   Vitamin D Deficiency: hold vitamin D
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2207-3-8**] 07:18 AM
   20 Gauge - [**2207-3-8**] 09:00 AM
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2207-3-8**] 09:26 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   _______________________
   [11][1] Dieulafoy's lesion is a medical condition characterized by a
   large tortuous arteriole in the stomach wall that erodes and bleeds. It
   can cause gastric hemorrhage but is relatively uncommon. It is thought
   to cause less than 5% of all gastrointestinal bleeds in adults. It was
   named after [**Name2 (NI) 4162**] surgeon [**First Name4 (NamePattern1) 98**] [**Name (NI) 11867**] Dieulafoy, who described this
   condition in his paper "Exulceratio simplex: Le
ons [**12-28**]" in 1898. It is
   also called "caliber-persistent artery" or "aneurysm" of gastric
   vessels. However, unlike most other aneurysms these are thought to be
   developmental malformations rather than degenerative changes.
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22);
  10. file://localhost/backup/dpdump/data_extract/HTML_FILES/[**Numeric Identifier 11874**].html#_ftn1
  11. file://localhost/backup/dpdump/data_extract/HTML_FILES/[**Numeric Identifier 11874**].html#_ftnref1

2207-03-09 09:00:00 Physician Attending Progress Note
Chief Complaint: Gi Bleed, Blood Loss Anemia, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Rescoped last PM --> intubated for scope --> difficult intubation,
   taken to OR for fiberoptic intubation
   Dieulafoy lesion
   Ongoing melanotic stools post-EGD
   24 Hour Events:
 [**Location (un) **] LINE - START [**2207-3-8**] 09:26 AM
 BLOOD CULTURED - At [**2207-3-8**] 10:00 AM
 URINE CULTURE - At [**2207-3-8**] 10:00 AM
 ENDOSCOPY - At [**2207-3-8**] 01:00 PM
 OR SENT - At [**2207-3-9**] 12:00 AM
   for fibroptic intubation/Endoscopy
 OR RECEIVED - At [**2207-3-9**] 02:15 AM
 INVASIVE VENTILATION - START [**2207-3-9**] 02:30 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Congestive Hear
   Last dose of Antibiotics:
   Nafcillin - [**2207-3-9**] 02:30 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2207-3-8**] 01:31 PM
   Fentanyl - [**2207-3-8**] 01:31 PM
   Furosemide (Lasix) - [**2207-3-8**] 07:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2207-3-9**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.5
C (99.5
   HR: 85 (79 - 106) bpm
   BP: 126/58(73) {94/34(49) - 190/93(102)} mmHg
   RR: 12 (9 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  4,091 mL
                                                                  2,710 mL
   PO:
           TF:
   IVF:
                                                                    440 mL
                                                                  1,459 mL
   Blood products:
                                                                  3,276 mL
                                                                  1,251 mL
   Total out:
                                                                  1,530 mL
                                                                    438 mL
   Urine:
                                                                  1,530 mL
                                                                    438 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,561 mL
                                                                  2,272 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 680 (680 - 712) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 20
   SpO2: 100%
   ABG: ///19/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, L ankle dressed
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   442 K/uL
   168 mg/dL
   3.3 mg/dL
   19 mEq/L
   3.6 mEq/L
   84 mg/dL
   104 mEq/L
   133 mEq/L
   20.1 %
   16.3 K/uL
        [image002.jpg]
                             [**2207-3-8**]  10:38 AM
                             [**2207-3-8**]  02:50 PM
                             [**2207-3-8**]  07:01 PM
                             [**2207-3-8**]  09:24 PM
                             [**2207-3-9**]  01:25 AM
                             [**2207-3-9**]  01:35 AM
                             [**2207-3-9**]  04:25 AM
   WBC
   21.9
   20.7
   19.8
   24.9
   16.3
   Hct
   22.9
   23.1
   21.6
   25.5
   24.6
   34
   20.1
   Plt
   [**Telephone/Fax (3) 11866**]20
   442
   Cr
   3.7
   3.6
   3.3
   TropT
   <0.01
   Glucose
   181
   158
   154
   168
   Other labs: PT / PTT / INR:13.3/24.8/1.1, CK / CKMB /
   Troponin-T:25//<0.01, ALT / AST:[**8-14**], Alk Phos / T Bili:134/0.8,
   Differential-Neuts:89.0 %, Band:1.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:1862 ng/mL, Fibrinogen:677 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:1.8 g/dL, LDH:227 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:6.4
   mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 LEUKOCYTOSIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 CELLULITIS
   in left charcot foot with 6 cm linear incision that probes deep into
   tissue/ligaments/bone at least 1.5 cm
 DIABETES MELLITUS (DM), TYPE II
   uncontrolled
 DIARRHEA
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPERTENSION, BENIGN
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   47 yo woman with DM2, Charcot foot, in MICU with GI Bleed, Blood loss
   anemia, respiratory failure
   GI bleed: Dieulafoy lesion by endoscopy, ongoing melena.  Rescope this
   AM - GI, surgery, IR following.  Has recieved 9 units total pRBCs.
   Reespiratory Failure: remain intubated for endoscopy
 difficult
   intubation
 will be conservative with assessing readiness for
   extubation.  [**Month (only) 60**] need diuresis after bleeding issue resolved prior to
   extubation
   Leukocytosis. WBC down slightly today
   ARF/ATN. Holding nephrotoxic meds. Cont to trend
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2207-3-8**] 07:18 AM
   20 Gauge - [**2207-3-8**] 09:00 AM
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2207-3-8**] 09:26 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2207-03-10 07:48:00 Physician Resident Progress Note
Chief Complaint: intubated
   24 Hour Events:
   [**2207-3-9**]
   Hct checked q4h
   22 --> 26.1 --> 24.7 at 1730, she was given 2 more units at this point
   and her Hct  bumped
28.6
 30.0
 27.8
 28.1
   GI wants to hold off to scope tomorrow and just wanted to transfuse to
   keep Ht 25-30 or above.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Congestive Hear
   Last dose of Antibiotics:
   Nafcillin - [**2207-3-10**] 04:00 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2207-3-10**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.7
   HR: 84 (82 - 92) bpm
   BP: 127/59(74) {117/45(67) - 147/63(82)} mmHg
   RR: 11 (0 - 17) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,298 mL
                                                                    538 mL
   PO:
             TF:
   IVF:
                                                                  2,647 mL
                                                                    538 mL
   Blood products:
                                                                  2,651 mL
   Total out:
                                                                  2,478 mL
                                                                    508 mL
   Urine:
                                                                  1,028 mL
                                                                    508 mL
   NG:
   Stool:
                                                                  1,450 mL
   Drains:
   Balance:
                                                                  2,820 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 830 (750 - 910) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 17
   SpO2: 99%
   ABG: ///19/
   Ve: 10.1 L/min
   Physical Examination
   Gen: intubated, sedated, but arousable
   Pulm: coarse anteriorly, equal air entry
   CV: 3/6 systolic murmur, RRR
   Abd: BS present, soft, ND
   Ext: pulses intact, edema of hands and feet, [**Year (2 digits) **] is dressed, no
   drainage, erythema over L anterior shin is [**Last Name (un) 11879**], not extending beyond
   the line
   Labs / Radiology
   353 K/uL
   9.6 g/dL
   129 mg/dL
   2.6 mg/dL
   19 mEq/L
   3.9 mEq/L
   83 mg/dL
   106 mEq/L
   134 mEq/L
   27.8 %
   16.3 K/uL
        [image002.jpg]
                             [**2207-3-8**]  09:24 PM
                             [**2207-3-9**]  01:25 AM
                             [**2207-3-9**]  01:35 AM
                             [**2207-3-9**]  04:25 AM
                             [**2207-3-9**]  08:18 AM
                             [**2207-3-9**]  12:24 PM
                             [**2207-3-9**]  05:26 PM
                             [**2207-3-9**]  08:55 PM
                             [**2207-3-10**]  12:13 AM
                             [**2207-3-10**]  04:19 AM
   WBC
   24.9
   16.3
   16.3
   Hct
   25.5
   24.6
   34
   20.1
   22.4
   26.1
   24.7
   28.6
   30.0
   27.8
   Plt
   [**Telephone/Fax (3) 11878**]53
   Cr
   3.3
   2.6
   Glucose
   154
   168
   140
   129
   Other labs: PT / PTT / INR:12.1/24.5/1.0, CK / CKMB /
   Troponin-T:25//<0.01, ALT / AST:[**8-14**], Alk Phos / T Bili:134/0.8,
   Differential-Neuts:89.0 %, Band:1.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:1862 ng/mL, Fibrinogen:677 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:1.8 g/dL, LDH:227 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:6.3
   mg/dL
   Assessment and Plan
   Assessment and Plan
   49 y/o F with DM2, HTN,  CAD s/p CABG, admitted/in hospital for MSSA
   bacteremia, charcot foot infected with MSSA, hypotension from sepsis
   with [**Hospital **] transferred from medical [**Hospital1 **] with upper GI bleed likely from
   ASA/Plavix in setting of critical illness and prior hx of ulcers.
   Upper GI Bleed: active bleeding that did not clear with NG lavage.
   Scope x2 Sat showing clot in stomach the first endoscopy and then were
   able to intervene on second endoscopy with cautery (see GI note).  Was
   intubated for second endoscopy and remains intubated.  Not adequately
   responding to a total of 9 PRBCs, 3 plts, and 2 FFP.  Continues to have
   melena output.
   -          Maintain [**Location (un) **] and power-PICC (both equivalent to > 18G)
   -          NPO
   -          Maintain active T&S
   -          IV protonix gtt
   -          Transfuse to HCT > 25 given coronary history and baseline
   HCT of 30 or if drop >3
   -          Give DDAVP for uremic platelets in the setting of renal
   failure
   -          Continue Q4H HCT
   -          GI to scope this afternoon
   Leukocytosis: no clear source other than foot, known bacteremia which
   has cleared per blood cultures or diarrhea that is c. diff neg. Could
   be stress response to GI bleed.
   -          Trend WBC
   -          F/U blood cultures
   -          Follow-up CXR
   -          C. Diff has been negative
   -          Repeat Ucx, given foley catheter in place
   -          Monitor clinical exam for spread of erythema over [**Location (un) **]
   MSSA Bacteremia: repeat blood cultures negative. Temp [**3-7**] to 99.5 on
   standing tylenol.
   -          Continue nafcillin (does not need renal dosing)
   -          Repeat blood cultures
   -          Appreciate ID recommendations
   Left Charcot Foot and Cellulitis:
   -          Continue nafcillin
   -          Follow-up on final tissue cultures
   -          Monitor for improvement
   -          Appreciate podiatric surgery recommendations
   -          Vascular recommends noncontrast CT of [**First Name9 (NamePattern2) **]
   [**Last Name (un) **] d/t ATN: patient without known CKD at baseline. ATN attributed to
   hypotension in setting of MSSA bacteremia. Peak Cr 4.3.
   -          Renally dose all meds
   -          Hold sevelamer while NPO
   -          Monitor UOP, trend Cr
   -          Keep MAPs > 60 to maintain renal perfusion
   -          Appreciate renal consult recommendations
   Hyponatremia: 130,  in setting volume depletion. Has been an issue
   throughout hospitalization and improves with volume and hydration.  Na
   is 134 this morning.
   -     Trend Na with [**Hospital1 **] lytes
   Diarrhea: currently in setting of melena, but prior likely antibiotic
   associated with multiple negative c. diff
   -          When able to tolerate PO initiate yogurt in diet /
   probiotics
   -          Consider loperamide once GI bleed resolves and if there is
   no evidence for infection
   Cervical Disc Disease: C6-C7 disc herniation
   -          Appreciate spine consultation recommendations
   -          Will hold on CT C spine w/o contrast until patient stable
   from a Upper GI bleed perspective
   DM c/b retinopathy, neuropathy:
   -          Lantus to 20 units (half dose) QHS given NPO status
   -          Continue HISS but only treat BG > 200 given currently NPO
   -          Renally dose gabapentin and hold until while patient NPO
   Pain: concern that tylenol could be masking fevers
   -          Stop tylenol for 48 hours to trend temperature curve
   -          Continue dilaudid IV for pain
   HTN:
   -          Continue to hold norvasc, lasix, lopressor, valsartan
   -          Monitor BPs
   CAD s/p CABG [**2197**]:  last intervention > 1 year ago, given acute upper
   GI bleed need to stop ASA and Plavix.
   -          Restart imdur when able
   -          Check EKG
   Diastolic CHF:
   -          Consider using lasix with blood transfusions to prevent
   fluid overload.
   HL: hold atorvastatin and fish oil while NPO
   Vitamin D Deficiency: hold vitamin D
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2207-3-8**] 07:18 AM
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2207-3-8**] 09:26 AM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  protonix drip
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU for today for scope
 will remain intubated for scope

2207-03-10 09:06:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Blood Loss Anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Planned EGD this AM
   24 Hour Events:
   2 additional units pRBCs transfused overnight
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Congestive Hear
   Last dose of Antibiotics:
   Nafcillin - [**2207-3-10**] 08:22 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2207-3-10**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 83 (82 - 90) bpm
   BP: 128/57(75) {117/45(67) - 147/63(82)} mmHg
   RR: 10 (0 - 17) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,298 mL
                                                                    689 mL
   PO:
             TF:
   IVF:
                                                                  2,647 mL
                                                                    689 mL
   Blood products:
                                                                  2,651 mL
   Total out:
                                                                  2,478 mL
                                                                    608 mL
   Urine:
                                                                  1,028 mL
                                                                    608 mL
   NG:
   Stool:
                                                                  1,450 mL
   Drains:
   Balance:
                                                                  2,820 mL
                                                                     81 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 830 (750 - 910) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 17
   SpO2: 99%
   ABG: ///19/
   Ve: 10.1 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, R hand dorsum/forearm erythema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   353 K/uL
   129 mg/dL
   2.6 mg/dL
   19 mEq/L
   3.9 mEq/L
   83 mg/dL
   106 mEq/L
   134 mEq/L
   28.1 %
   16.3 K/uL
        [image002.jpg]
                             [**2207-3-9**]  01:25 AM
                             [**2207-3-9**]  01:35 AM
                             [**2207-3-9**]  04:25 AM
                             [**2207-3-9**]  08:18 AM
                             [**2207-3-9**]  12:24 PM
                             [**2207-3-9**]  05:26 PM
                             [**2207-3-9**]  08:55 PM
                             [**2207-3-10**]  12:13 AM
                             [**2207-3-10**]  04:19 AM
                             [**2207-3-10**]  07:54 AM
   WBC
   24.9
   16.3
   16.3
   Hct
   24.6
   34
   20.1
   22.4
   26.1
   24.7
   28.6
   30.0
   27.8
   28.1
   Plt
   [**Telephone/Fax (3) 11878**]53
   Cr
   3.3
   2.6
   Glucose
   154
   168
   140
   129
   Other labs: PT / PTT / INR:12.1/24.5/1.0, CK / CKMB /
   Troponin-T:25//<0.01, ALT / AST:[**8-14**], Alk Phos / T Bili:134/0.8,
   Differential-Neuts:89.0 %, Band:1.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:1862 ng/mL, Fibrinogen:677 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:1.8 g/dL, LDH:227 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:6.3
   mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 LEUKOCYTOSIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 CELLULITIS
   in left charcot foot with 6 cm linear incision that probes deep into
   tissue/ligaments/bone at least 1.5 cm
 DIABETES MELLITUS (DM), TYPE II
   uncontrolled
 DIARRHEA
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPERTENSION, BENIGN
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   47 yo woman with DM2, Charcot foot, in MICU with GI Bleed, Blood loss
   anemia, respiratory failure
   GI bleed: Dieulafoy lesion by endoscopy.  Hemodynamics have been
   stable.  Plan to rescope today.  Has received 13 units of pRBCs total.
   Respiratory Failure: remains on 0.4 of FIO2 but CXR remains congested
   appearing.  If hemodynamics are stable post-endocopy and there is
   satisfactory hemostasis will plan for diuresis prior to proceeding with
   extubation.  Difficult airway
 will need to be conservative with
   extubation
   Leukocytosis. stable
   ARF/ATN. Cr down this AM
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2207-3-8**] 07:18 AM
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2207-3-8**] 09:26 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) **] husband present on rounds
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill
   ------ Protected Section ------
   Will also obtain non-contrast CT of L lower extremity to reassess for L
   shin fluid collection.  Cont nafcillin for MSSA bacteremia.
   ------ Protected Section Addendum Entered By:[**Name (NI) 6010**] [**Name8 (MD) 6011**], MD
   on:[**2207-3-10**] 12:53 ------

2207-03-11 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Scoped by GI. Had stable clot, that they did not want to mess around
   with. They discussed the case with surgery. Surgery is following along
   but no immediate plans to take to OR while Hct, and hemodynamics are
   stable given that Pt is not ideal surgical candidate. They will be
   following and will continue to re-evaluate as things go on.
   Spoke with Dr. [**Last Name (STitle) 11890**] from ID who mentioned that high dose
   nafcillin can lead to platelet dysfunction. In this setting, nafcillin
   was d/c and started vanco. CT scan of LE done, no final read back yet,
   but per nursing, podiatry had come by and said the scan looked OK. PM
   Hcts stable.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Congestive Hear
   Last dose of Antibiotics:
   Nafcillin - [**2207-3-10**] 04:00 PM
   Vancomycin - [**2207-3-10**] 07:15 PM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies any pain or discomfort
   Flowsheet Data as of  [**2207-3-11**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.2
C (97.1
   HR: 77 (68 - 91) bpm
   BP: 137/57(76) {104/45(61) - 140/71(85)} mmHg
   RR: 9 (8 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 133.4 kg (admission): 129 kg
   Height: 68 Inch
             Total In:
                                                                  1,745 mL
                                                                    445 mL
   PO:
             TF:
   IVF:
                                                                  1,745 mL
                                                                    445 mL
   Blood products:
   Total out:
                                                                  1,532 mL
                                                                    505 mL
   Urine:
                                                                  1,532 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    213 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 646 (620 - 741) mL
   PS : 10 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 23
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Bronchial: , Diminished:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender: ,
   Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 2+
   Skin:  Not assessed, Rash: right hand: stable
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   360 K/uL
   9.0 g/dL
   65 mg/dL
   2.3 mg/dL
   19 mEq/L
   3.7 mEq/L
   83 mg/dL
   107 mEq/L
   136 mEq/L
   26.7 %
   14.1 K/uL
        [image002.jpg]
                             [**2207-3-9**]  08:55 PM
                             [**2207-3-10**]  12:13 AM
                             [**2207-3-10**]  04:19 AM
                             [**2207-3-10**]  07:54 AM
                             [**2207-3-10**]  12:00 PM
                             [**2207-3-10**]  12:03 PM
                             [**2207-3-10**]  04:19 PM
                             [**2207-3-10**]  08:00 PM
                             [**2207-3-11**]  12:00 AM
                             [**2207-3-11**]  04:47 AM
   WBC
   16.3
   14.6
   14.1
   Hct
   28.6
   30.0
   27.8
   28.1
   27.4
   27.5
   27.0
   27.0
   26.7
   Plt
   353
   361
   360
   Cr
   2.6
   2.3
   Glucose
   129
   135
   65
   Other labs: PT / PTT / INR:11.8/24.3/1.0, CK / CKMB /
   Troponin-T:25//<0.01, ALT / AST:[**9-9**], Alk Phos / T Bili:145/0.4,
   Differential-Neuts:89.0 %, Band:1.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:1862 ng/mL, Fibrinogen:718 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:1.8 g/dL, LDH:209 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:6.9
   mg/dL
   [image004.jpg]
   CT SCAN LLE
   1. Findings consistent with Charcot arthropathy and superimposed
   osteomyelitis of the mid foot with large post-surgical soft tissue
   defect noted medially.
   2. Small amount of residual fluid about the dorsal lateral aspect of
   the mid foot, but no large fluid collections. Diffuse subcutaneous
   edema consistent with known cellulitis.
   Assessment and Plan
   49 y/o F with DM2, HTN,  CAD s/p CABG, admitted/in hospital for MSSA
   bacteremia, charcot foot infected with MSSA, hypotension from sepsis
   with [**Hospital **] transferred from medical [**Hospital1 **] with upper GI bleed likely from
   ASA/Plavix in setting of critical illness and prior hx of ulcers.
   # Upper GI Bleed: active bleeding that did not clear with NG lavage.
   Scope x2 Sat showing clot in stomach the first endoscopy and then were
   able to intervene on second endoscopy with cautery (see GI note).  Was
   intubated for second endoscopy and remains intubated. 3^rd scope
   Tuesday showing clot. Not adequately responding to a total of 9 PRBCs,
   3 plts, and 2 FFP.  Continues to have melena output.
   -          Maintain [**Location (un) **] and power-PICC (both equivalent to > 18G)
   -          NPO
   -          Maintain active T&S
   -          IV protonix gtt
   -          Transfuse to HCT > 25 given coronary history and baseline
   HCT of 30 or if drop >3
   -          Give DDAVP for uremic platelets in the setting of renal
   failure
   -          Continue Q4H HCT
   # Respiratory Status/Diastolic CHF: Currently doing well intubated on
   pressure support of 5 and 10. Difficult intubation with concern for
   laryngeal edema. Has reassuring cuff leak.
   -          diurese today:
   -          plan to extubate tomorrow
   -          continue propafol gtt
   [image006.jpg]
   # Leukocytosis: no clear source other than foot, known bacteremia which
   has cleared per blood cultures or diarrhea that is c. diff neg. Could
   be stress response to GI bleed.
   -          Trend WBC
   -          F/U blood cultures
   -          Follow-up CXR
   -          C. Diff has been negative
   -          Repeat Ucx, given foley catheter in place
   -          Monitor clinical exam for spread of erythema over LLE
   # MSSA Bacteremia: repeat blood cultures negative. Temp [**3-7**] to 99.5 on
   standing tylenol.
   -          Vancomycin (stopped nafcillin 3/16 per ID)
   -          Repeat blood cultures
   -          Appreciate ID recommendations
   # Left Charcot Foot and Cellulitis: followed by podiatry/vascular
   surgery. Non-Contrast CT of LLE:
   -          Continue vancomycin
   -          Follow-up on final tissue cultures
   -          Monitor for improvement
   -          Appreciate podiatric surgery recommendations
   -          Vascular recommends noncontrast CT of LLE
   -          Surgery Recs: [**Hospital1 **] betadine packing, DSD, ace daily
   -          Plan for further debridement once medically stable
   # [**Last Name (un) **] d/t ATN: patient without known CKD at baseline. ATN attributed to
   hypotension in setting of MSSA bacteremia. Peak Cr 4.3.
   -          Renally dose all meds
   -          Hold sevelamer while NPO
   -          Monitor UOP, trend Cr
   -          Keep MAPs > 60 to maintain renal perfusion
   -          Appreciate renal consult recommendations
   # HTN: reasonably well controlled at present
   -          Diurese today as above
   -          Continue to hold norvasc, lopressor, valsartan in setting of
   GIB
   -          Monitor BPs
   Hyponatremia: Resolved. Initially 130 in setting volume depletion. Has
   been an issue throughout hospitalization and improves with volume and
   hydration.  Na is 136 this morning.
   Diarrhea: currently in setting of melena, but prior likely antibiotic
   associated with multiple negative c. diff
   -          When able to tolerate PO initiate yogurt in diet /
   probiotics
   -          Consider loperamide once GI bleed resolves and if there is
   no evidence for infection
   Cervical Disc Disease: C6-C7 disc herniation
   -          Appreciate spine consultation recommendations
   -          Will hold on CT C spine w/o contrast until patient stable
   from a Upper GI bleed perspective
   DM c/b retinopathy, neuropathy:
   -          Lantus to 20 units (half dose) QHS given NPO status
   -          Continue HISS but only treat BG > 200 given currently NPO
   -          Renally dose gabapentin and hold until while patient NPO
   Pain: concern that tylenol could be masking fevers
   -          Stop tylenol for 48 hours to trend temperature curve
   -          Continue dilaudid IV for pain
   CAD s/p CABG [**2197**]:  last intervention > 1 year ago, given acute upper
   GI bleed need to stop ASA and Plavix.
   -          Restart imdur when able
   -          Check EKG
   HL: hold atorvastatin and fish oil while NPO
   Vitamin D Deficiency: hold vitamin D
   Sugar Control:
   [image008.jpg]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2207-3-8**] 07:18 AM
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2207-3-8**] 09:26 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2207-03-11 09:53:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, LLE infection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   EGD yesterday with 2 gastric lesions with clots on them but some
   evidence of active oozing under the clots.  After coordination between
   GI and surgery for possibility of operative managment of ongoing
   bleeding - decision made to continue to follow Hcts before pushing
   forward with surgery
   Hct has remained stable for ~30 hrs since 2 units of PRBCs late on [**3-9**]
   24 Hour Events:
 ENDOSCOPY - At [**2207-3-10**] 01:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Congestive Hear
   Last dose of Antibiotics:
   Nafcillin - [**2207-3-10**] 04:00 PM
   Vancomycin - [**2207-3-10**] 07:15 PM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2207-3-11**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 35.9
C (96.7
   HR: 78 (68 - 91) bpm
   BP: 143/63(83) {104/45(61) - 143/71(85)} mmHg
   RR: 11 (8 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 133.4 kg (admission): 129 kg
   Height: 68 Inch
             Total In:
                                                                  1,745 mL
                                                                    512 mL
   PO:
             TF:
   IVF:
                                                                  1,745 mL
                                                                    512 mL
   Blood products:
   Total out:
                                                                  1,532 mL
                                                                    505 mL
   Urine:
                                                                  1,532 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    213 mL
                                                                      7 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 651 (620 - 741) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 23
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, L ankle dressed.  R hand erythema improving
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   360 K/uL
   65 mg/dL
   2.3 mg/dL
   19 mEq/L
   3.7 mEq/L
   83 mg/dL
   107 mEq/L
   136 mEq/L
   28.0 %
   14.1 K/uL
        [image002.jpg]
                             [**2207-3-10**]  12:13 AM
                             [**2207-3-10**]  04:19 AM
                             [**2207-3-10**]  07:54 AM
                             [**2207-3-10**]  12:00 PM
                             [**2207-3-10**]  12:03 PM
                             [**2207-3-10**]  04:19 PM
                             [**2207-3-10**]  08:00 PM
                             [**2207-3-11**]  12:00 AM
                             [**2207-3-11**]  04:47 AM
                             [**2207-3-11**]  07:57 AM
   WBC
   16.3
   14.6
   14.1
   Hct
   30.0
   27.8
   28.1
   27.4
   27.5
   27.0
   27.0
   26.7
   28.0
   Plt
   353
   361
   360
   Cr
   2.6
   2.3
   Glucose
   129
   135
   65
   Other labs: PT / PTT / INR:11.8/24.3/1.0, CK / CKMB /
   Troponin-T:25//<0.01, ALT / AST:[**9-9**], Alk Phos / T Bili:145/0.4,
   Differential-Neuts:89.0 %, Band:1.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:1862 ng/mL, Fibrinogen:718 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:1.8 g/dL, LDH:209 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:6.9
   mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 LEUKOCYTOSIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 CELLULITIS
   in left charcot foot with 6 cm linear incision that probes deep into
   tissue/ligaments/bone at least 1.5 cm
 DIABETES MELLITUS (DM), TYPE II
   uncontrolled
 DIARRHEA
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPERTENSION, BENIGN
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   47 yo woman with DM2, Charcot foot, in MICU with GI Bleed, Blood loss
   anemia, respiratory failure
   GI bleed: Hct has now remainded stable since prior to last endoscopy -
   unclear yet though if she has achieved lasting hemostasis.  Cont to
   follow serial Hcts closely.  GI, Surgery following and case discussed
   with IR.  Deferring any further intervention as long as Hct is stable.
   Respiratory Failure: mechanics and oxygenation have been good - will
   aim to diurese if Hct remains stable and aim for extubation tomorrow
   LLE infection: CT scan show stable fluid collection
   MSSA bacteremia: Have change nafcillin to vanc for outside chance that
   nafcillin was contributing to platelet dysfunction
   ARF/ATN. continues to trend down
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2207-3-8**] 07:18 AM
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2207-3-8**] 09:26 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2207-03-12 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Hcts stable. Started diuresing in evening; put out ~800cc with 20 IV
   Lasix. Lowish blood sugars so gave only 10 of lantus; reduced regular
   dose from 40 -> 20 -> 16. Phosphate rising.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Congestive Hear
   Last dose of Antibiotics:
   Nafcillin - [**2207-3-10**] 04:00 PM
   Vancomycin - [**2207-3-11**] 07:54 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2207-3-11**] 08:15 PM
   Dextrose 50% - [**2207-3-12**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2207-3-12**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 84 (76 - 87) bpm
   BP: 138/52(75) {132/52(74) - 150/70(88)} mmHg
   RR: 11 (9 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 133.4 kg (admission): 129 kg
   Height: 68 Inch
             Total In:
                                                                  1,553 mL
                                                                    335 mL
   PO:
             TF:
   IVF:
                                                                  1,553 mL
                                                                    310 mL
   Blood products:
   Total out:
                                                                  2,395 mL
                                                                    600 mL
   Urine:
                                                                  2,395 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -842 mL
                                                                   -265 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 600 (600 - 761) mL
   PS : 10 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///17/
   Ve: 8.1 L/min
   Physical Examination
   Gen:  NAD, responsive, denies pain
   Pulm: CTA anteriorly
   CV:RRR, no murmur appreciated
   Abd:  scattered bruising, soft, NT/ND, BS slightly hypoactive but
   present, no rebound/guarding
   Peripheral Vascular: pulses intact, cap refill <2s, LLE in dressing
   looked at wound with podiatry ~ 10cm wound on medial side of dorasal L
   foot, no pus, small amount of dead tissue, otherwise healthy
   Skin:   warm, dry, intact
   Neurologic: Responds to commands, alert, intubated
   Labs / Radiology
   429 K/uL
   9.7 g/dL
   58 mg/dL
   1.8 mg/dL
   17 mEq/L
   3.9 mEq/L
   78 mg/dL
   108 mEq/L
   137 mEq/L
   27.1 %
   14.9 K/uL
        [image002.jpg]
                             [**2207-3-10**]  04:19 PM
                             [**2207-3-10**]  08:00 PM
                             [**2207-3-11**]  12:00 AM
                             [**2207-3-11**]  04:47 AM
                             [**2207-3-11**]  07:57 AM
                             [**2207-3-11**]  12:21 PM
                             [**2207-3-11**]  04:16 PM
                             [**2207-3-11**]  04:20 PM
                             [**2207-3-11**]  10:00 PM
                             [**2207-3-12**]  03:59 AM
   WBC
   14.6
   14.1
   14.9
   Hct
   27.5
   27.0
   27.0
   26.7
   28.0
   27.4
   27.3
   28.5
   27.1
   Plt
   [**Telephone/Fax (3) 11898**]
   Cr
   2.3
   2.1
   1.8
   Glucose
   65
   65
   58
   Other labs: PT / PTT / INR:11.5/24.8/1.0, CK / CKMB /
   Troponin-T:25//<0.01, ALT / AST:[**9-9**], Alk Phos / T Bili:145/0.4,
   Differential-Neuts:89.0 %, Band:1.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:1862 ng/mL, Fibrinogen:718 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:1.8 g/dL, LDH:209 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:6.9
   mg/dL
   Assessment and Plan
   49 y/o F with DM2, HTN,  CAD s/p CABG, admitted/in hospital for MSSA
   bacteremia, charcot foot infected with MSSA, hypotension from sepsis
   with [**Hospital **] transferred from medical [**Hospital1 **] with upper GI bleed likely from
   ASA/Plavix in setting of critical illness and prior hx of ulcers.
   # Upper GI Bleed: active bleeding that did not clear with NG lavage.
   Scope x2 on [**3-7**] showing clot in stomach the first endoscopy and then
   were able to intervene on second endoscopy with cautery (see GI note).
   Was intubated for second endoscopy and remains intubated. 3^rd scope
   [**3-10**] showing clot. Hct has now been stable for the last 24 hours.
   -          Maintain [**Location (un) **] and power-PICC (both equivalent to > 18G)
   -          NPO
   -          Maintain active T&S
   -          IV protonix gtt
   -          Transfuse to HCT > 25 given coronary history and baseline
   HCT of 30 or if drop >3
   -          Space out to Q8H HCT
   # Respiratory Status/Diastolic CHF: Currently doing well intubated on
   pressure support. Difficult intubation with concern for laryngeal
   edema. Has reassuring cuff leak.  Responded well to 20 IV lasix (800cc
   urine).
   -          Extubate today
   -          20 IV lasix this AM, will check PM lytes
   # Leukocytosis: no clear source other than foot, known bacteremia which
   has cleared per blood cultures or diarrhea that is c. diff neg. Could
   be stress response to GI bleed.  No further spread of LLE erythema
   -          Trend WBC
   -          F/U blood cultures
   -          Follow-up CXR
   -          C. Diff has been negative
   -          Monitor clinical exam for spread of erythema over LLE
   # MSSA Bacteremia: repeat blood cultures negative. Temp [**3-7**] to 99.5 on
   standing tylenol.
   -          Vancomycin (stopped nafcillin 3/16 per ID)
   -          F/U repeat blood cultures
   -          Appreciate ID recommendations
   # Left Charcot Foot and Cellulitis: followed by podiatry/vascular
   surgery. Non-Contrast CT of LLE: showed no obvious fluid collection.
   -          Continue vancomycin
   -          Follow-up on final tissue cultures
   -          Monitor for improvement
   -          Appreciate podiatric surgery recommendations
   -          Surgery Recs: [**Hospital1 **] betadine packing, DSD, ace daily
   -          Plan for further debridement once medically stable
   # [**Last Name (un) **] d/t ATN: patient without known CKD at baseline. ATN attributed to
   hypotension in setting of MSSA bacteremia. Peak Cr 4.3.
   -          Renally dose all meds
   -          Hold sevelamer while NPO
   -          Monitor UOP, trend Cr
   -          Keep MAPs > 60 to maintain renal perfusion
   -          Appreciate renal consult recommendations
   # HTN: reasonably well controlled at present
   -          Diurese today as above
   -          Continue to hold norvasc, lopressor, valsartan in setting of
   GIB
   -          Monitor BPs
   Hyponatremia: Resolved. Initially 130 in setting volume depletion. Has
   been an issue throughout hospitalization and improves with volume and
   hydration.  Na is 137 this morning.
   Diarrhea: currently in setting of melena, but prior likely antibiotic
   associated with multiple negative c. diff
   -          When able to tolerate PO initiate yogurt in diet /
   probiotics
   -          Consider loperamide once GI bleed resolves and if there is
   no evidence for infection
   Cervical Disc Disease: C6-C7 disc herniation
   -          Will hold on CT C spine w/o contrast until patient stable
   from a Upper GI bleed perspective
   DM c/b retinopathy, neuropathy:
   -          Lantus to 10 units (half dose) QHS given NPO status
   -          Continue HISS but only treat BG > 200 given currently NPO
   -          Renally dose gabapentin and hold until while patient NPO
   Pain: concern that tylenol could be masking fevers
   -          Continue dilaudid IV for pain
   CAD s/p CABG [**2197**]:  last intervention > 1 year ago, given acute upper
   GI bleed need to stop ASA and Plavix.
   -          Restart imdur when able
   -          Check EKG
   HL: hold atorvastatin and fish oil while NPO
   Vitamin D Deficiency: hold vitamin D
   Nutrition: NPO
   Lines:
   PICC Line - [**2207-3-8**] 07:18 AM
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2207-3-8**] 09:26 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI
   Communication:  patient and husband
   [**Name (NI) 66**] status: Full code
   Disposition:  ICU, pending extubation will re-evaluate

2207-03-12 10:14:00 Physician Attending Progress Note
Chief Complaint: GI Bleed/Blood Loss Anemia, Respiratory Failure, LLE
   extremity infection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Serial Hcts continue to be stable
   24 Hour Events:
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Congestive Hear
   Last dose of Antibiotics:
   Nafcillin - [**2207-3-10**] 04:00 PM
   Vancomycin - [**2207-3-12**] 08:00 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2207-3-11**] 08:15 PM
   Dextrose 50% - [**2207-3-12**] 05:30 AM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2207-3-12**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 85 (78 - 87) bpm
   BP: 132/60(78) {131/52(75) - 150/70(88)} mmHg
   RR: 15 (9 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 133.4 kg (admission): 129 kg
   Height: 68 Inch
             Total In:
                                                                  1,553 mL
                                                                    676 mL
   PO:
             TF:
   IVF:
                                                                  1,553 mL
                                                                    651 mL
   Blood products:
   Total out:
                                                                  2,395 mL
                                                                    740 mL
   Urine:
                                                                  2,395 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -842 mL
                                                                    -64 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 654 (600 - 761) mL
   PS : 10 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///17/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, L ankle/foot dressing c/d/i
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   429 K/uL
   58 mg/dL
   1.8 mg/dL
   17 mEq/L
   3.9 mEq/L
   78 mg/dL
   108 mEq/L
   137 mEq/L
   27.1 %
   14.9 K/uL
        [image002.jpg]
                             [**2207-3-10**]  04:19 PM
                             [**2207-3-10**]  08:00 PM
                             [**2207-3-11**]  12:00 AM
                             [**2207-3-11**]  04:47 AM
                             [**2207-3-11**]  07:57 AM
                             [**2207-3-11**]  12:21 PM
                             [**2207-3-11**]  04:16 PM
                             [**2207-3-11**]  04:20 PM
                             [**2207-3-11**]  10:00 PM
                             [**2207-3-12**]  03:59 AM
   WBC
   14.6
   14.1
   14.9
   Hct
   27.5
   27.0
   27.0
   26.7
   28.0
   27.4
   27.3
   28.5
   27.1
   Plt
   [**Telephone/Fax (3) 11898**]
   Cr
   2.3
   2.1
   1.8
   Glucose
   65
   65
   58
   Other labs: PT / PTT / INR:11.5/24.8/1.0, CK / CKMB /
   Troponin-T:25//<0.01, ALT / AST:[**9-9**], Alk Phos / T Bili:145/0.4,
   Differential-Neuts:89.0 %, Band:1.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:1862 ng/mL, Fibrinogen:718 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:1.8 g/dL, LDH:209 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:6.9
   mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 LEUKOCYTOSIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 CELLULITIS
   in left charcot foot with 6 cm linear incision that probes deep into
   tissue/ligaments/bone at least 1.5 cm
 DIABETES MELLITUS (DM), TYPE II
   uncontrolled
 DIARRHEA
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPERTENSION, BENIGN
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   47 yo woman with DM2, Charcot foot, in MICU with GI Bleed, Blood loss
   anemia, respiratory failure
   GI bleed: Hct has been stable for greater than 48 hrs - no further
   melena.  Check Hct q8 hrs.  Cont PPI.  GI and surgery following closely
   Respiratory Failure: aim for extubation today - passed SBT.  Will need
   to have anesthesia present given difficult airway.  Cont gentle
   diuresis - 20mg iv Lasix now
   LLE infection: repeat debridement per podiatry - likely tomorrow
   MSSA bacteremia: Cont vanco
   ARF/ATN. Cr continues to trend down
   DM: Lantus 10 units last PM - cont frequent blood sugar checks
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2207-3-8**] 07:18 AM
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2207-3-8**] 09:26 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2207-03-13 06:50:00 Physician Resident Progress Note
Chief Complaint: L Foot Infection, GI Bleed
   24 Hour Events:
   Pt. extubated yesterday and did well.  Hct has been stable.
   Plan to go to the OR today with orthopedics.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Congestive Hear
   Last dose of Antibiotics:
   Nafcillin - [**2207-3-10**] 04:00 PM
   Vancomycin - [**2207-3-12**] 08:03 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2207-3-12**] 11:20 AM
   Hydromorphone (Dilaudid) - [**2207-3-13**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2207-3-13**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.3
C (97.4
   HR: 93 (81 - 93) bpm
   BP: 151/68(87) {131/47(69) - 165/75(97)} mmHg
   RR: 18 (12 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 133.4 kg (admission): 129 kg
   Height: 68 Inch
             Total In:
                                                                  1,237 mL
                                                                    136 mL
   PO:
             TF:
   IVF:
                                                                  1,212 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                    580 mL
   Urine:
                                                                  2,400 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,163 mL
                                                                   -444 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 567 (567 - 654) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: ///18/
   Ve: 7.5 L/min
   Physical Examination
   Gen:  NAD, alert
   Pulm:  CTA anteriorly
   CV: 2-3/6 systolic murmur heard at LSB
   Abd:  soft, obese, +BS
   Peripheral Vascular: LLE with dressing intact, pulses intact all 4 ext
   Skin:  warm, dry
   Neurologic: A&Ox3
   Labs / Radiology
   446 K/uL
   9.2 g/dL
   74 mg/dL
   1.6 mg/dL
   18 mEq/L
   3.7 mEq/L
   66 mg/dL
   111 mEq/L
   141 mEq/L
   27.0 %
   13.3 K/uL
        [image002.jpg]
                             [**2207-3-11**]  04:47 AM
                             [**2207-3-11**]  07:57 AM
                             [**2207-3-11**]  12:21 PM
                             [**2207-3-11**]  04:16 PM
                             [**2207-3-11**]  04:20 PM
                             [**2207-3-11**]  10:00 PM
                             [**2207-3-12**]  03:59 AM
                             [**2207-3-12**]  10:06 AM
                             [**2207-3-12**]  05:39 PM
                             [**2207-3-13**]  02:47 AM
   WBC
   14.1
   14.9
   13.3
   Hct
   26.7
   28.0
   27.4
   27.3
   28.5
   27.1
   25.9
   27.8
   27.0
   Plt
   [**Telephone/Fax (3) 11920**]
   Cr
   2.3
   2.1
   1.8
   1.7
   1.6
   Glucose
   65
   65
   58
   70
   74
   Other labs: PT / PTT / INR:11.8/23.9/1.0, CK / CKMB /
   Troponin-T:25//<0.01, ALT / AST:[**9-9**], Alk Phos / T Bili:136/0.4,
   Differential-Neuts:89.0 %, Band:1.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:1862 ng/mL, Fibrinogen:718 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.0 g/dL, LDH:196 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:6.0
   mg/dL
   Assessment and Plan
   49 y/o F with DM2, HTN,  CAD s/p CABG, admitted/in hospital for MSSA
   bacteremia, charcot foot infected with MSSA, hypotension from sepsis
   with [**Hospital **] transferred from medical [**Hospital1 **] with upper GI bleed likely from
   ASA/Plavix in setting of critical illness and prior hx of ulcers.
   # Upper GI Bleed: active bleeding that did not clear with NG lavage.
   Scope x2 on [**3-7**] showing clot in stomach the first endoscopy and then
   were able to intervene on second endoscopy with cautery (see GI note).
   Was intubated for second endoscopy and extubated yesterday AM. 3^rd
   scope [**3-10**] showing clot. Hct has now been stable for the last 24 hours.
   -          Maintain [**Location (un) **] and power-PICC (both equivalent to > 18G)
   -          NPO
   -          Maintain active T&S
   -          IV protonix gtt
   -          Transfuse to HCT > 25 given coronary history and baseline
   HCT of 30 or if drop >3
   -          Space out to [**Hospital1 **] Hct
   -
   # Respiratory Status/Diastolic CHF: Currently doing well intubated on
   pressure support. Difficult intubation with concern for laryngeal
   edema. Has reassuring cuff leak.  Responded well to 20 IV lasix (800cc
   urine).
   -          Extubated yesterday
   -          Can trend UOP and diurese w/ 20 IV lasix as necessary
   # Leukocytosis: no clear source other than foot, known bacteremia which
   has cleared per blood cultures or diarrhea that is c. diff neg. Could
   be stress response to GI bleed.  No further spread of LLE erythema
   -          Trend WBC
   -          F/U blood cultures
   -          Follow-up CXR
   -          C. Diff has been negative
   -          Monitor clinical exam for spread of erythema over LLE
   # MSSA Bacteremia: repeat blood cultures negative. Temp [**3-7**] to 99.5 on
   standing tylenol.
   -          Vancomycin (stopped nafcillin 3/16 per ID)
   -          F/U repeat blood cultures
   -          Appreciate ID recommendations
   # Left Charcot Foot and Cellulitis: followed by podiatry/vascular
   surgery. Non-Contrast CT of LLE: showed no obvious fluid collection.
   -          Continue vancomycin
   -          Follow-up on final tissue cultures
   -          Monitor for improvement
   -          Appreciate podiatric surgery recommendations
   -          Surgery Recs: [**Hospital1 **] betadine packing, DSD, ace daily
   -          Plan for further debridement once medically stable
   # [**Last Name (un) **] d/t ATN: patient without known CKD at baseline. ATN attributed to
   hypotension in setting of MSSA bacteremia. Peak Cr 4.3.
   -          Renally dose all meds
   -          Hold sevelamer while NPO
   -          Monitor UOP, trend Cr
   -          Keep MAPs > 60 to maintain renal perfusion
   -          Appreciate renal consult recommendations
   # HTN: reasonably well controlled at present
   -          Diurese today as above
   -          Continue to hold norvasc, lopressor, valsartan in setting of
   GIB
   -          Monitor BPs
   Hyponatremia: Resolved. Initially 130 in setting volume depletion. Has
   been an issue throughout hospitalization and improves with volume and
   hydration.  Na is 137 this morning.
   Diarrhea: currently in setting of melena, but prior likely antibiotic
   associated with multiple negative c. diff
   -          When able to tolerate PO initiate yogurt in diet /
   probiotics
   -          Consider loperamide once GI bleed resolves and if there is
   no evidence for infection
   Cervical Disc Disease: C6-C7 disc herniation
   -          Will hold on CT C spine w/o contrast until patient stable
   from a Upper GI bleed perspective
   DM c/b retinopathy, neuropathy:
   -          Lantus to 10 units (half dose) QHS given NPO status
   -          Continue HISS but only treat BG > 200 given currently NPO
   -          Renally dose gabapentin and hold until while patient NPO
   Pain: concern that tylenol could be masking fevers
   -          Continue dilaudid IV for pain
   CAD s/p CABG [**2197**]:  last intervention > 1 year ago, given acute upper
   GI bleed need to stop ASA and Plavix.
   -          Restart imdur when able
   -          Check EKG
   HL: hold atorvastatin and fish oil while NPO
   Vitamin D Deficiency: hold vitamin D
   Nutrition: clear diet, advanced as tolerated
   Lines:
   PICC Line - [**2207-3-8**] 07:18 AM
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2207-3-8**] 09:26 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI
   Communication:  patient and husband
   [**Name (NI) 66**] status: Full code
   Disposition:  ICU today, likely call out tomorrow if otherwise stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2207-3-8**] 07:18 AM
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2207-3-8**] 09:26 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2207-03-13 12:02:00 Physician Attending Progress Note
Chief Complaint: GI bleed, Blood Loss Anemia, L foot infection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pt has no complaints
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2207-3-12**] 01:32 PM
   Hcts remain stable
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Congestive Hear
   Last dose of Antibiotics:
   Nafcillin - [**2207-3-10**] 04:00 PM
   Vancomycin - [**2207-3-13**] 07:45 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2207-3-13**] 04:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2207-3-13**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 86 (81 - 93) bpm
   BP: 150/69(89) {131/47(69) - 165/75(97)} mmHg
   RR: 13 (12 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 133.4 kg (admission): 129 kg
   Height: 68 Inch
             Total In:
                                                                  1,237 mL
                                                                    437 mL
   PO:
             TF:
   IVF:
                                                                  1,212 mL
                                                                    437 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                    940 mL
   Urine:
                                                                  2,400 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,163 mL
                                                                   -503 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 567 (567 - 567) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: ///18/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, L ankle dressed
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   9.2 g/dL
   446 K/uL
   74 mg/dL
   1.6 mg/dL
   18 mEq/L
   3.7 mEq/L
   66 mg/dL
   111 mEq/L
   141 mEq/L
   27.0 %
   13.3 K/uL
        [image002.jpg]
                             [**2207-3-11**]  04:47 AM
                             [**2207-3-11**]  07:57 AM
                             [**2207-3-11**]  12:21 PM
                             [**2207-3-11**]  04:16 PM
                             [**2207-3-11**]  04:20 PM
                             [**2207-3-11**]  10:00 PM
                             [**2207-3-12**]  03:59 AM
                             [**2207-3-12**]  10:06 AM
                             [**2207-3-12**]  05:39 PM
                             [**2207-3-13**]  02:47 AM
   WBC
   14.1
   14.9
   13.3
   Hct
   26.7
   28.0
   27.4
   27.3
   28.5
   27.1
   25.9
   27.8
   27.0
   Plt
   [**Telephone/Fax (3) 11920**]
   Cr
   2.3
   2.1
   1.8
   1.7
   1.6
   Glucose
   65
   65
   58
   70
   74
   Other labs: PT / PTT / INR:11.8/23.9/1.0, CK / CKMB /
   Troponin-T:25//<0.01, ALT / AST:[**9-9**], Alk Phos / T Bili:136/0.4,
   Differential-Neuts:89.0 %, Band:1.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:1862 ng/mL, Fibrinogen:718 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.0 g/dL, LDH:196 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:6.0
   mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 LEUKOCYTOSIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 CELLULITIS
   in left charcot foot with 6 cm linear incision that probes deep into
   tissue/ligaments/bone at least 1.5 cm
 DIABETES MELLITUS (DM), TYPE II
   uncontrolled
 DIARRHEA
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPERTENSION, BENIGN
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   47 yo woman with DM2, Charcot foot, in MICU with GI Bleed, Blood loss
   anemia, respiratory failure
   GI bleed: Stable x >3 days.  q8 Hcts.  PPI
   Respiratory Failure: now extubated and doing well
   LLE infection: holding off on debridement by podiatry for now given
   recent stessors
   MSSA bacteremia: Cont vanco
   ARF/ATN. Cr continues to improve
   DM: holding Lantus given FSBGs 80s-90s
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2207-3-8**] 07:18 AM
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2207-3-8**] 09:26 AM
   Comments: D/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] line
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2207-03-14 04:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt was initially scheduled to go to OR for podiatric procedure,
   however, surgery recommended deferring until Pt more stable. Pt
s Hct
   remained stable throughout the day. Pt HD stable, husband at the
   bedside. Plan for c/o to floor today.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Congestive Hear
   Last dose of Antibiotics:
   Vancomycin - [**2207-3-13**] 07:45 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2207-3-14**] 04:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.4
   HR: 87 (83 - 93) bpm
   BP: 131/56(73) {129/55(72) - 160/72(93)} mmHg
   RR: 17 (12 - 27) insp/min
   SpO2: 97% on 2L NC
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 149 kg (admission): 129 kg
   Height: 68 Inch
             Total In:
                                                                  1,071 mL
                                                                     87 mL
   PO:
                                                                    390 mL
             TF:
   IVF:
                                                                    681 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    260 mL
   Urine:
                                                                  1,900 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -829 mL
                                                                   -173 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   General: awake, alert, appropriate
   CV: RRR, no m/r/g
   Lungs: CTAB anteriorly
   Abdomen: + bowel sounds, s/nt/nd
   Extremities: LLE in ACE bandage wrap, erythema unchanged.
   Labs / Radiology
   446 K/uL
   9.2 g/dL
   74 mg/dL
   1.6 mg/dL
   18 mEq/L
   3.7 mEq/L
   66 mg/dL
   111 mEq/L
   141 mEq/L
   27.7 %
   13.3 K/uL
        [image002.jpg]
                             [**2207-3-11**]  07:57 AM
                             [**2207-3-11**]  12:21 PM
                             [**2207-3-11**]  04:16 PM
                             [**2207-3-11**]  04:20 PM
                             [**2207-3-11**]  10:00 PM
                             [**2207-3-12**]  03:59 AM
                             [**2207-3-12**]  10:06 AM
                             [**2207-3-12**]  05:39 PM
                             [**2207-3-13**]  02:47 AM
                             [**2207-3-13**]  03:34 PM
   WBC
   14.9
   13.3
   Hct
   28.0
   27.4
   27.3
   28.5
   27.1
   25.9
   27.8
   27.0
   27.7
   Plt
   429
   446
   Cr
   2.1
   1.8
   1.7
   1.6
   Glucose
   65
   58
   70
   74
   Other labs: PT / PTT / INR:11.8/23.9/1.0, CK / CKMB /
   Troponin-T:25//<0.01, ALT / AST:[**9-9**], Alk Phos / T Bili:136/0.4,
   Differential-Neuts:89.0 %, Band:1.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:1862 ng/mL, Fibrinogen:718 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.0 g/dL, LDH:196 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:6.0
   mg/dL
   Assessment and Plan
   49 y/o F with DM2, HTN,  CAD s/p CABG, admitted/in hospital for MSSA
   bacteremia, charcot foot infected with MSSA, hypotension from sepsis
   with [**Hospital **] transferred from medical [**Hospital1 **] with upper GI bleed likely from
   ASA/Plavix in setting of critical illness and prior hx of ulcers.
   # Upper GI Bleed: active bleeding that did not clear with NG lavage.
   Scope x2 on [**3-7**] showing clot in stomach the first endoscopy and then
   were able to intervene on second endoscopy with cautery (see GI note).
   Was intubated for second endoscopy and extubated. 3^rd scope [**3-10**]
   showing clot. Hct has now been stable for several days.
   -          Maintain [**Location (un) **] and power-PICC (both equivalent to > 18G). Will
   d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] this morning.
   -          Clear liquid diet, consider advancing to fulls.
   -          Maintain active T&S
   -          On IV protonix gtt
 touch base with GI re: recs for
   changing to protonix [**Hospital1 **].
   -          Transfuse to HCT > 25 given coronary history and baseline
   HCT of 30 or if drop >3
   -          Consider changing to QD Hct since Hct has remained stable x3
   days
   # Respiratory Status/Diastolic CHF: Currently doing well since
   extubation.
   - Can trend UOP and diurese w/ 20 IV lasix as necessary
   # Leukocytosis: no clear source other than foot, known bacteremia which
   has cleared per blood cultures or diarrhea that is c. diff neg. Could
   be stress response to GI bleed.  No further spread of LLE erythema
   -          Trend WBC
   -          F/U blood cultures, which have all been negative to date
   -          Follow-up CXR
   -          C. Diff has been negative
   -          Monitor clinical exam for spread of erythema over LLE
   -          ID recommends d/c
ing Foley as it is infection risk, will
   discuss feasibility given LLE cellulitis/Charcot foot.
   # MSSA Bacteremia: repeat blood cultures negative. Temp [**3-7**] to 99.5 on
   standing tylenol.
   -          Vancomycin (stopped nafcillin 3/16 per ID)
   -          F/U repeat blood cultures
   -          Appreciate ID recommendations
   # Left Charcot Foot and Cellulitis: followed by podiatry/vascular
   surgery. Non-Contrast CT of LLE: showed no obvious fluid collection.
   -          Per podiatry, plan for further debridement and exploration
   on [**3-15**] if continues to be medically stable.
   -          Continue vancomycin
   -          Follow-up on final tissue cultures
   -          Monitor for improvement
   -          Appreciate podiatric surgery recommendations
   -          Surgery Recs: [**Hospital1 **] betadine packing, DSD, ace daily
   # [**Last Name (un) **] d/t ATN: patient without known CKD at baseline. ATN attributed to
   hypotension in setting of MSSA bacteremia. Peak Cr 4.3. Baseline
   creatinine 0.6-0.8. Has been down-trending with hemodynamic support and
   most recently 1.8.
   -          Renally dose all meds
   -          Holding sevelamer while NPO; may consider re-starting as
   patient
s diet is advanced.
   -          Monitor UOP, trend Cr
   -          Keep MAPs > 60 to maintain renal perfusion
   -          Appreciate renal consult recommendations
   # HTN: reasonably well controlled at present
   -          Diurese today as above
   -          [**Month (only) 60**] consider re-starting low-dose lopressor given slightly
   elevated BPs and fact that pt has remained hemodynamically stable
   -          Continue to hold norvasc
   -          Continue to hold valsartan in setting of renal failure
   -          Monitor BPs
   Hyponatremia: Resolved. Initially 130 in setting volume depletion. Has
   been an issue throughout hospitalization and improves with volume and
   hydration.  Na is 137 this morning.
   Diarrhea: resolved, moving bowels scantly currently. In setting of
   melena, but prior likely antibiotic associated with multiple negative
   c. diff
   -          When able to tolerate PO initiate yogurt in diet /
   probiotics
   Cervical Disc Disease: C6-C7 disc herniation
   -          Will hold on CT C spine w/o contrast until patient stable
   from a Upper GI bleed perspective
   DM c/b retinopathy, neuropathy:
   -          Lantus to 10 units (half dose) QHS
   -          Continue HISS but only treat BG > 200 given currently NPO
   -          Renally dose gabapentin and hold until while patient NPO
   Pain: concern that tylenol could be masking fevers
   -          Continue dilaudid IV for pain
   CAD s/p CABG [**2197**]:  last intervention > 1 year ago, given acute upper
   GI bleed need to stop ASA and Plavix.
   -          Restart imdur when able
   -          Check EKG
   HL: hold atorvastatin and fish oil while NPO
   Vitamin D Deficiency: hold vitamin D

2207-03-14 10:52:00 Physician Attending Progress Note
Chief Complaint: GI Bleed/Blood Loss Anemia, LLE infectiom
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Did well overnight - report some ongoing L knee pain
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Congestive Hear
   Last dose of Antibiotics:
   Vancomycin - [**2207-3-13**] 07:45 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2207-3-14**] 06:39 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Musculoskeletal: Joint pain, knee pain
   Flowsheet Data as of  [**2207-3-14**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 86 (83 - 93) bpm
   BP: 163/63(88) {129/51(71) - 164/76(97)} mmHg
   RR: 15 (12 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 149 kg (admission): 129 kg
   Height: 68 Inch
             Total In:
                                                                  1,071 mL
                                                                    934 mL
   PO:
                                                                    390 mL
                                                                    720 mL
   TF:
   IVF:
                                                                    681 mL
                                                                    214 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    740 mL
   Urine:
                                                                  1,900 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -829 mL
                                                                    194 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, L ankle/foot dressed
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   504 K/uL
   142 mg/dL
   1.5 mg/dL
   17 mEq/L
   4.0 mEq/L
   56 mg/dL
   108 mEq/L
   139 mEq/L
   28.2 %
   12.8 K/uL
        [image002.jpg]
                             [**2207-3-11**]  12:21 PM
                             [**2207-3-11**]  04:16 PM
                             [**2207-3-11**]  04:20 PM
                             [**2207-3-11**]  10:00 PM
                             [**2207-3-12**]  03:59 AM
                             [**2207-3-12**]  10:06 AM
                             [**2207-3-12**]  05:39 PM
                             [**2207-3-13**]  02:47 AM
                             [**2207-3-13**]  03:34 PM
                             [**2207-3-14**]  04:17 AM
   WBC
   14.9
   13.3
   12.8
   Hct
   27.4
   27.3
   28.5
   27.1
   25.9
   27.8
   27.0
   27.7
   28.2
   Plt
   429
   446
   504
   Cr
   2.1
   1.8
   1.7
   1.6
   1.5
   Glucose
   65
   58
   70
   74
   142
   Other labs: PT / PTT / INR:13.0/24.0/1.1, CK / CKMB /
   Troponin-T:25//<0.01, ALT / AST:[**9-9**], Alk Phos / T Bili:136/0.4,
   Differential-Neuts:89.0 %, Band:1.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:1862 ng/mL, Fibrinogen:718 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.0 g/dL, LDH:196 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:5.1
   mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 LEUKOCYTOSIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 CELLULITIS
   in left charcot foot with 6 cm linear incision that probes deep into
   tissue/ligaments/bone at least 1.5 cm
 DIABETES MELLITUS (DM), TYPE II
   uncontrolled
 DIARRHEA
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPERTENSION, BENIGN
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   47 yo woman with DM2, Charcot foot, in MICU with GI Bleed, Blood loss
   anemia, respiratory failure
   GI bleed: Hct continue to be stable.  Cont PPI - change to [**Hospital1 **] dosing.
   Cont to advance diet as tolerated.
   LLE infection: tentative plan for debridement by podiatry tomorrow
   MSSA bacteremia: Cont vanco
   ARF/ATN. Cr continues to improve
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2207-3-8**] 07:18 AM
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2207-3-8**] 09:26 AM
 D/C today
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: